US04230628
A mixture of 1.37 g. of 4-aminobenzoic acid, 3.50 g. of methyl 16-bromohexadecanoate, 2.12 g. of sodium carbonate and 140 ml. of hexamethylphosphoramide is stirred at 120° C. for 18 hours, allowed to cool, and poured into dilute hydrochloric acid. The precipitate is collected by filtration, dried, and crystallized from acetonitrile to yield 4-(15-carbomethoxypentadecylamino)benzoic acid as a white solid.

reactant | 4-aminobenzoic acid | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | methyl 16-bromohexadecanoate | BrCCCCCCCCCCCCCCCC(=O)OC | C17H33BrO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 4-(15-carbomethoxypentadecylamino)benzoic acid | C(=O)(OC)CCCCCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1 | C24H39NO4
